US05219847
II-7-4: Synthesis of 2-cyano-6-n-undecylpyridine
To a solution of 10.0 g (40 mmol) of 2-n-undecylpyridine N-oxide and 8.10 g (80 mmol) of triethylamine dissolved in 40 ml of acetonitrile was dropwise added 15.8 g of trimethylsilylanilide while stirring at room temperature. After the dropwise addition, the mixture was refluxed for 67 hours, concentrated under a reduced pressure, followed by separation by silica gel column chromatography (ethyl acetate:hexane=1:9) to give 5.40 g of an oily product (yield 52.1%).

reactant | 2-n-undecylpyridine N-oxide | 40 mmol, 10.0 g | C(CCCCCCCCCC)C1=[N+](C=CC=C1)[O-] | C16H27NO
reactant | triethylamine | 80 mmol, 8.10 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 2-cyano-6-n-undecylpyridine | 5.40 g, yield 52.1% | C(#N)C1=NC(=CC=C1)CCCCCCCCCCC | C17H26N2
